US07230031B2
4-(7-Amino-5-methylindan-4-yloxy)-2-(1-hydroxyethyl)-3-hydroxymethylphenol
To a solution of ethyl 6-(7-amino-5-methylindan-4-yloxy)-2-acetyl-3-hydroxybenzoate (213 mg) in tetrahydrofuran (15 mL) were added lithium borohydride (390 mg) and ethanol (5 mL). The mixture was stirred at 60° C. for 4 days. To the reaction mixture was added water (10 mL). The mixture was acidified with an 10% aqueous solution of citric acid. To the mixture was added ethyl acetate (20 mL). The reaction mixture was stirred for 1 hour, and extracted with ethyl acetate (×3). The combined organic layers were washed with brine, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure. The residue was purified by thin layer chromatography on silica gel (developing solvent: hexane/ethyl acetate=1/1) to give the title compound (66 mg).

reactant | ethyl 6-(7-amino-5-methylindan-4-yloxy)-2-acetyl-3-hydroxybenzoate | 213 mg | NC=1C=C(C(=C2CCCC12)OC1=CC=C(C(=C1C(=O)OCC)C(C)=O)O)C | C21H23NO5
reactant | lithium borohydride | 390 mg | [BH4-].[Li+]
reactant | ethanol | 5 mL | C(C)O | C2H6O
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 10 mL | O | H2O
product | 4-(7-Amino-5-methylindan-4-yloxy)-2-(1-hydroxyethyl)-3-hydroxymethylphenol | 66 mg | NC=1C=C(C(=C2CCCC12)OC1=C(C(=C(C=C1)O)C(C)O)CO)C | C19H23NO4
